* 7th Order Chebyshev Filter with simplified op-amp
.subckt OPAMP1 inp inn vdd vss out
.param gain=9.752737040391636 rout=50
E1 out1 0 inp inn {gain}
Rout out1 out {rout}
.ends

* Input source
V1 in 0 AC 1
Vbias vbias 0 DC 2.5
Vpos vcc 0 DC 15
Vneg vee 0 DC -15

* First Stage
X11 2 1 vcc vee 3 OPAMP1
R14 in 2 62279.60350328048
R11 vbias 1 92500.29905322735
C11 vbias 3 1.7462545525068056e-10
R13 3 4 21713.476659686592
R12 0 4 43007.50347618912
X12 5 4 vcc vee 6 OPAMP1
C12 0 5 1.4331082720537993e-09
R15 6 7 55526.06459296199
X13 out1 7 vcc vee out1 OPAMP1
R16 vcc 7 15469.530749049018

* Second Stage
X21 9 8 vcc vee 10 OPAMP1
R24 out1 9 13342.777943991916
R21 vbias 8 69836.41652508288
C21 vbias 10 7.819341104486982e-09
R23 10 11 16392.14701516569
R22 0 11 71596.44696751867
X22 12 11 vcc vee 13 OPAMP1
C22 0 12 9.741512049318845e-10
R25 13 14 1283.8827470820306
X23 out2 14 vcc vee out2 OPAMP1
R26 vcc 14 34825.63737557304

* Third Stage
X31 16 15 vcc vee 17 OPAMP1
R34 out2 16 42773.313500722106
R31 vbias 15 56574.313851870815
C31 vbias 17 1.375677969545505e-09
R33 17 18 17509.12183250125
R32 0 18 85747.19648981994
X32 19 18 vcc vee 20 OPAMP1
C32 0 19 1.5988557232288323e-09
R35 20 21 4774.37618797571
X33 out3 21 vcc vee out3 OPAMP1
R36 vcc 21 38900.34290483773

* Output Stage
X41 output 22 vcc vee output OPAMP1
R41 out3 22 97525.77180528264
R42 0 22 98867.88500909408
C41 0 22 9.927754747475804e-09

* Analysis commands
.control
set units=degrees
ac dec 100 1 1MEG
wrdata filter_response.txt v(output)
quit
.endc
.end