* 7th Order Chebyshev Filter with simplified op-amp
.subckt OPAMP1 inp inn vdd vss out
.param gain=15.578409326470512 rout=50
E1 out1 0 inp inn {gain}
Rout out1 out {rout}
.ends

* Input source
V1 in 0 AC 1
Vbias vbias 0 DC 2.5
Vpos vcc 0 DC 15
Vneg vee 0 DC -15

* First Stage
X11 2 1 vcc vee 3 OPAMP1
R14 in 2 26086.69434506015
R11 vbias 1 64225.44006928852
C11 vbias 3 3.0018671304650276e-09
R13 3 4 43417.648384239284
R12 0 4 78723.95352441109
X12 5 4 vcc vee 6 OPAMP1
C12 0 5 1.057736281853098e-09
R15 6 7 3220.472368295263
X13 out1 7 vcc vee out1 OPAMP1
R16 vcc 7 23881.560118342055

* Second Stage
X21 9 8 vcc vee 10 OPAMP1
R24 out1 9 40230.641948117845
R21 vbias 8 22515.45581740505
C21 vbias 10 2.3486621358866348e-09
R23 10 11 22604.260872539122
R22 0 11 39451.06116706447
X22 12 11 vcc vee 13 OPAMP1
C22 0 12 1.627741170351751e-10
R25 13 14 19871.22681716666
X23 out2 14 vcc vee out2 OPAMP1
R26 vcc 14 9553.010935302811

* Third Stage
X31 16 15 vcc vee 17 OPAMP1
R34 out2 16 116854.59026089315
R31 vbias 15 99105.51177339404
C31 vbias 17 1.1962036756719407e-09
R33 17 18 72149.74351904007
R32 0 18 25442.46608746319
X32 19 18 vcc vee 20 OPAMP1
C32 0 19 5.116946935308763e-10
R35 20 21 7112.112084060809
X33 out3 21 vcc vee out3 OPAMP1
R36 vcc 21 2346.5443322361507

* Output Stage
X41 output 22 vcc vee output OPAMP1
R41 out3 22 93866.68322161393
R42 0 22 91737.65352544846
C41 0 22 9.864348551323088e-09

* Analysis commands
.control
set units=degrees
ac dec 100 1 1MEG
wrdata filter_response.txt v(output)
quit
.endc
.end