* 7th Order Chebyshev Filter with simplified op-amp
.subckt OPAMP1 inp inn vdd vss out
.param gain=1.0269231708423046 rout=50
E1 out1 0 inp inn {gain}
Rout out1 out {rout}
.ends

* Input source
V1 in 0 AC 1
Vbias vbias 0 DC 2.5
Vpos vcc 0 DC 15
Vneg vee 0 DC -15

* First Stage
X11 2 1 vcc vee 3 OPAMP1
R14 in 2 20359.4045596145
R11 vbias 1 59906.58493383882
C11 vbias 3 6.918207557348688e-10
R13 3 4 78566.72041477145
R12 0 4 13283.031717442913
X12 5 4 vcc vee 6 OPAMP1
C12 0 5 4.592948654209142e-10
R15 6 7 57309.77931572339
X13 out1 7 vcc vee out1 OPAMP1
R16 vcc 7 2945.4259802115816

* Second Stage
X21 9 8 vcc vee 10 OPAMP1
R24 out1 9 41592.56659867613
R21 vbias 8 34801.3694741953
C21 vbias 10 8.773403191145873e-10
R23 10 11 110349.71809128621
R22 0 11 73097.41057449165
X22 12 11 vcc vee 13 OPAMP1
C22 0 12 3.53035883014852e-09
R25 13 14 5089.914490087628
X23 out2 14 vcc vee out2 OPAMP1
R26 vcc 14 16878.116295157823

* Third Stage
X31 16 15 vcc vee 17 OPAMP1
R34 out2 16 18025.332481548565
R31 vbias 15 68617.9843947048
C31 vbias 17 1.3998955302120598e-09
R33 17 18 15009.288511776664
R32 0 18 14891.743500470891
X32 19 18 vcc vee 20 OPAMP1
C32 0 19 9.704002419521523e-09
R35 20 21 39386.87055813493
X33 out3 21 vcc vee out3 OPAMP1
R36 vcc 21 68029.78744931507

* Output Stage
X41 output 22 vcc vee output OPAMP1
R41 out3 22 1478.132866530284
R42 0 22 17259.715459035364
C41 0 22 1.2573867172331249e-10

* Analysis commands
.control
set units=degrees
ac dec 100 1 1MEG
wrdata filter_response.txt v(output)
quit
.endc
.end